US05314901
α-(Methoxyimino)-α-(1-ethyl-1,2,5,6-tetrahydropyridin-3-yl) acetonitrile oxalate salt (E11)
To a vigorously stirred mixture of α-(methoxyimino)-α-(1,2,5,6-tetrahydropyridin-3-yl)acetonitrile (E10) (1.1 g, 0.0067 mol) and potassium carbonate (2.0 g, 0.0145 mol) in acetone (50 ml) at room temperature was added iodoethane (1.17 g, 0.0075 mol). After 4 hrs the mixture was concentrated in vacuo and the residue partitioned between water (25 ml) and chloroform (3×50 ml) The combined organic extracts were dried (Na2SO4) and evaporated to a residue which was purified by column chromatography on silica gel eluting with 0-2% methanol/chloroform to give the free base of the title compound (E11) (1.22 g, 94%). A portion of this was treated with anhydrous oxalic acid to give a solid which crystalised from ethanol/diethyl ether to afford the title compound (E11) as a white solid m.p. 155°-6° C.

reactant | α-(methoxyimino)-α-(1,2,5,6-tetrahydropyridin-3-yl)acetonitrile | 0.0067 mol, 1.1 g | CON=C(C#N)C=1CNCCC1 | C8H11N3O
reactant | potassium carbonate | 0.0145 mol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.0075 mol, 1.17 g | ICC | C2H5I
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | α-(Methoxyimino)-α-(1-ethyl-1,2,5,6-tetrahydropyridin-3-yl) acetonitrile oxalate salt | 1.22 g, 94% | C(C(=O)O)(=O)O.CON=C(C#N)C=1CN(CCC1)CC | InChI=1S/C10H15N3O.C2H2O4/c1-3-13-6-4-5-9(8-13)10(7-11)12-14-2;3-1(4)2(5)6/h5H,3-4,6,8H2,1-2H3;(H,3,4)(H,5,6)
